US06610694B1
Production of N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]glycine ethyl ester
1.58 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.38 g of N-(6-chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl)glycine ethyl ester were dissolved in 15 ml of N,N-dimethylformamide; 1.68 ml of N-ethyldiisopropylamine was added, followed by stirring under heating at an external temperature of 70° C. for 5 hours. After cooling, water was added; the reaction mixture was extracted with tetrahydrofuran. After concentration under reduced pressure, the precipitated crystal was twice recrystallized from ethanol-tetrahydrofuran (1:1), collected by filtration, and dried, to yield 995 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 1.58 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-(6-chloro[1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl)glycine ethyl ester | 1.38 g | C(C)OC(CNC(=O)C1=NN=C2N1N=C(C=C2)Cl)=O | C10H10ClN5O3
reactant | N-ethyldiisopropylamine | 1.68 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[4,3-b]pyridazine-3-carbonyl]glycine ethyl ester | 995 mg | C(C)OC(CNC(=O)C1=NN=C2N1N=C(C=C2)NCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)=O | C31H37N7O4
